US08309580B2
(1) 1-{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}-3-methylbutan-1-ol
An operation similar to that in Example 3 (2) was performed using 2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furaldehyde (805 mg) and 1N isobutylmagnesium bromide-tetrahydrofuran solution (6.0 mL) to give the title compound (819 mg, 83%) as an oil.

reactant | 2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furaldehyde | 805 mg | C(C)C=1OC(=CC1C=O)C1=CC=C(C=C1)C(F)(F)F | C14H11F3O2
reactant | isobutylmagnesium bromide tetrahydrofuran | 1N, 6.0 mL | C(C(C)C)[Mg]Br.O1CCCC1
product | 1-{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}-3-methylbutan-1-ol | 819 mg, 83% | C(C)C=1OC(=CC1C(CC(C)C)O)C1=CC=C(C=C1)C(F)(F)F | C18H21F3O2
